US08729102B2
E) N-[(1S)-2-{4-[6-(cyclopropylmethoxy)pyrazolo[1,5-a]pyridin-2-yl]-3,5-difluorophenoxy}-1-methylethyl]acetamide
A mixture of tert-butyl [(1S)-2-{4-[6-(cyclopropylmethoxy)pyrazolo[1,5-a]pyridin-2-yl]-3,5-difluorophenoxy}-1-methylethyl]carbamate (130 mg) and 4 M hydrogen chloride-ethyl acetate (2 mL) was stirred at room temperature for 30 min. The mixture was concentrated under reduced pressure. To the residue were added pyridine (2 mL) and acetic anhydride (0.26 mL). The mixture was stirred at room temperature for 30 min and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (NH, hexane/ethyl acetate) to afford the title compound (40 mg).

reactant | tert-butyl [(1S)-2-{4-[6-(cyclopropylmethoxy)pyrazolo[1,5-a]pyridin-2-yl]-3,5-difluorophenoxy}-1-methylethyl]carbamate | 130 mg | C1(CC1)COC=1C=CC=2N(C1)N=C(C2)C2=C(C=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=C2F)F | C25H29F2N3O4
reactant | hydrogen chloride-ethyl acetate | 4 M, 2 mL | C(C)(=O)OCC.Cl
product | N-[(1S)-2-{4-[6-(cyclopropylmethoxy)pyrazolo[1,5-a]pyridin-2-yl]-3,5-difluorophenoxy}-1-methylethyl]acetamide | 40 mg | C1(CC1)COC=1C=CC=2N(C1)N=C(C2)C2=C(C=C(OC[C@H](C)NC(C)=O)C=C2F)F | C22H23F2N3O3
